US04258049
A mixture of 0.52 g. (2.5 mmole) of 7-chloro-8-nitroisoquinoline and 0.317 g. (2.56 mmole) of benzyl mercaptan in 5 ml. of degassed isopropanol under argon at 0° C. was treated with 0.16 g. (2.5 mmole) of 86% KOH in 2 ml. of ethanol dropwise over fifteen minutes. The mixture was stirred for one hour at 25° C. and filtered. The collected product was washed with water and ethanol and then dried to yield 7-benzylthio-8-nitroisoquinoline having a melting point of 151°-153° C.

reactant | 7-chloro-8-nitroisoquinoline | 2.5 mmole | ClC1=CC=C2C=CN=CC2=C1[N+](=O)[O-] | C9H5ClN2O2
reactant | benzyl mercaptan | 2.56 mmole | C(C1=CC=CC=C1)S | C7H8S
reactant | isopropanol | C(C)(C)O | C3H8O
reactant | KOH | 2.5 mmole | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 7-benzylthio-8-nitroisoquinoline | C(C1=CC=CC=C1)SC1=CC=C2C=CN=CC2=C1[N+](=O)[O-] | C16H12N2O2S
